US05792769
a) 2-Chlorobenzenesulfonic acid 3-hydroxy-4-benzylphenyl ester
At 0° C. to a solution of 708 mg (3.54 mmol) of 4-benzylresorcinol in 20 mL of methylene chloride at 0° C. was added 410 μL (3.72 mmol) of N-methylmorpholine followed by 740 mg (3.51 mmol) of 2-chlorobenzenesulfonyl chloride. The reaction mixture was warmed to ambient temperature and stirred for 30 min. An additional 400 μL of N-methylmorpholine was added and the reaction mixture was stirred for another 60 min. The reaction mixture was quenched with 1N HCl, extracted into ether, washed with saturated NaHCO3, dried (MgSO4), and purified by flash chromatography (methylene chloride) to give 336.5 mg (25%) of the title compound as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ 7.95 (dd, 1H, J=1, 8 Hz), 7.55-7.63 (m, 2H), 7.34-7.40 (m, 1H), 7.1-7.3 (m, 5H), 6.98 (d, 1H), 6.61-6.65 (m, 2H), 4.95 (s, 1H), and 3.91 (s, 2H). Mass spectrum (MALDI-TOF; gentisic acid matrix) calcd. for C19H15ClO4S: 375.0 (M+H), 397.0 (M+Na). Found: 373.6, 396.7.

reactant | 4-benzylresorcinol | 3.54 mmol, 708 mg | C(C1=CC=CC=C1)C1=C(C=C(O)C=C1)O | C13H12O2
reactant | N-methylmorpholine | 3.72 mmol, 410 μL | CN1CCOCC1 | C5H11NO
reactant | 2-chlorobenzenesulfonyl chloride | 3.51 mmol, 740 mg | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N-methylmorpholine | 400 μL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Chlorobenzenesulfonic acid 3-hydroxy-4-benzylphenyl ester | 336.5 mg, 25% | OC=1C=C(C=CC1CC1=CC=CC=C1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H15ClO4S
